US05418237
A mixture of 4.05 g of 3-[4-(4-p-methoxyphenylpiperazino)butyl]-5-cyanoindole, 3.5 g of pyridine hydrochloride and 80 ml of pyridine is boiled for 3 hours. It is cooled, evaporated and worked up in a conventional manner, and 3-[4-(4-p-hydroxyphenylpiperazino)butyl]-5-cyanoindole is obtained.

reactant | 3-[4-(4-p-methoxyphenylpiperazino)butyl]-5-cyanoindole | 4.05 g | COC1=CC=C(C=C1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C#N | C24H28N4O
reactant | pyridine hydrochloride | 3.5 g | Cl.N1=CC=CC=C1
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 3-[4-(4-p-hydroxyphenylpiperazino)butyl]-5-cyanoindole | OC1=CC=C(C=C1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C#N | C23H26N4O
